US07589206B2
c) Methyl 2-{2-hydroxy-1-[(methyloxy)carbonyl]ethenyl}-1-methyl-1H-pyrrole-3-carboxylate
To a suspension of methyl 1-methyl-2-[2-(methyloxy)-2-oxoethyl]-1H-pyrrole-3-carboxylate (37.9 g) in THF (anhydrous, 300 ml), under argon, was added sodium hydride (60% dispersion in mineral oil, 37.9 g) portion-wise. After complete addition the reaction was stirred at 22° C. for 15 minutes before the drop-wise addition of methyl formate (16.6 ml). The reaction was stirred at 118° C. for 50 minutes. During this period the temperature increased to around 21.5° C. before a rapid rise in temperature with gas evolution. Cooling (solid carbon dioxide) was applied to the outside of the flask. The temperature reached a maximum of 30° C. before dropping to 20° C. The coolant was removed and the reaction stirred for a further 17 hours. The reaction mixture was cooled by an ice/water bath before the cautious addition of methanol (100 ml). The reaction mixture was then combined with the product of another second mixture prepared in a similar manner (starting weight of methyl 1-methyl-2-[2-(methyloxy)-2-oxoethyl]-1H-pyrrole-3-carboxylate was 35.5 g). The solution was concentrated in vacuo. The residue was treated with saturated ammonium chloride solution (600 ml) then acidified to pH1 by the cautious addition concentrated hydrochloric acid. Ice was added to cool the solution and it was then extracted with ethyl acetate (3×400 ml). The combined organics were dried (MgSO4) and the solvent removed to yield a black oily solid. Oil was decanted and the residue triturated with hexane (2×200 ml), diethyl ether (200 ml) and hexane (200 ml). This yielded the title compound as a brown solid (65.2 g).

reactant | methyl 1-methyl-2-[2-(methyloxy)-2-oxoethyl]-1H-pyrrole-3-carboxylate | 37.9 g | CN1C(=C(C=C1)C(=O)OC)CC(=O)OC | C10H13NO4
reactant | sodium hydride | 37.9 g | [H-].[Na+]
reactant | methyl formate | 16.6 ml | C(=O)OC | C2H4O2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | Methyl 2-{2-hydroxy-1-[(methyloxy)carbonyl]ethenyl}-1-methyl-1H-pyrrole-3-carboxylate | 65.2 g | OC=C(C(=O)OC)C=1N(C=CC1C(=O)OC)C | C11H13NO5
